US07365065B2
A solution of tert-butyl N-methyl-N-(3-(1,2,3,4-tetrahydroquinoline-1-carbonyl)benzyl)-carbamate (7.7 g, 20 mmol) in 4N hydrogen chloride/dioxan solution (20 ml) was stirred for 30 min. The mixture was reduced and azeotroped with toluene and dichloromethane to yield 1-(3-methylaminomethylbenzoyl)-1,2,3,4-tetrahydroquinoline hydrochloride as a glass (6.3 g, 99%).

reactant | tert-butyl N-methyl-N-(3-(1,2,3,4-tetrahydroquinoline-1-carbonyl)benzyl)-carbamate | 20 mmol, 7.7 g | CN(C(OC(C)(C)C)=O)CC1=CC(=CC=C1)C(=O)N1CCCC2=CC=CC=C12 | C23H28N2O3
reactant | hydrogen chloride dioxan | 4N, 20 ml | Cl.O1CCOCC1
product | 1-(3-methylaminomethylbenzoyl)-1,2,3,4-tetrahydroquinoline hydrochloride | 6.3 g, 99% | Cl.CNCC=1C=C(C(=O)N2CCCC3=CC=CC=C23)C=CC1 | InChI=1S/C18H20N2O.ClH/c1-19-13-14-6-4-8-16(12-14)18(21)20-11-5-9-15-7-2-3-10-17(15)20;/h2-4,6-8,10,12,19H,5,9,11,13H2,1H3;1H
